US03987070
Hexahydrophthalic acid diglycidyl ester
4163 g of epichlorhydrin, 693 g of hexahydrophthalic acid anhydride and 105 g of distilled water were weighed into a 6-liter four-necked flask, equipped with a reflux condenser, gas inlet pipe and dropping funnel, and heated with stirring to 90°C. A gentle stream of nitrogen was passed over the reaction mixture. After 2.5 hours, 15 g of K2HPO4 (secondary o-potassium phosphate) were added and the mixture was kept for about another 4 hours at 90°C. Thereafter, the product had an acid number of 0. It was cooled to approximately 20°C, followed by the dropwise addition over a period of 1 to 2 hours of 882 g of 45% by weight of NaOH. The sump temperature should not exceed 30°C during the addition. A water jet vacuum was then applied, and water together with excess epichlorhydrin (substantially quantitative) was distilled off. After the sump temperature had reached 90°C and the vacuum settled at approximately 20 mm, the product was taken up with 1000 g of toluene and washed with water until salt-free.

reactant | epichlorhydrin | 4163 g | C(Cl)C1CO1 | C3H5ClO
reactant | hexahydrophthalic acid anhydride | 693 g | C1(C2C(C(=O)O1)CCCC2)=O | C8H10O3
reactant | K2HPO4 | 15 g | OP(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 105 g | O | H2O
product | Hexahydrophthalic acid diglycidyl ester | C(C1CO1)OC(C1C(C(=O)OCC2CO2)CCCC1)=O | C14H20O6
